US06455528B1
(5) Synthesis of Methyl 2-(4-Aminomethylphenyl)-2-methylpropionate
A solution of methyl 2-(4-azidomethylphenyl)-2-methylpropionate (48.1 g)and triphenylphosphine (59.5 g) in a mixed solvent of tetrahydrofuran (480 ml) and water (24 ml) was refluxed for 30 min. The solvent was evaporated, and the obtained residue was purified by silica gel column chromatography (developing solvent; chloroform:methanol=10:1, chloroform:methanol:aqueous ammonia=10:1:0.3) to give the title compound (29.4 g) as a pale-yellow oil.

reactant | methyl 2-(4-azidomethylphenyl)-2-methylpropionate | 48.1 g | N(=[N+]=[N-])CC1=CC=C(C=C1)C(C(=O)OC)(C)C | C12H15N3O2
reactant | triphenylphosphine | 59.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 480 ml | O1CCCC1 | C4H8O
solvent | water | 24 ml | O | H2O
product | Methyl 2-(4-Aminomethylphenyl)-2-methylpropionate | 29.4 g | NCC1=CC=C(C=C1)C(C(=O)OC)(C)C | C12H17NO2
